US07094789B2
(Step A) Synthesis of N-(tert-butoxycarbonyl)-N-methyl-N′-(5-isoquinolyl)-1,3-propylenediamine (Intermediate 29)
Under nitrogen atmosphere, a suspension of 5-bromoisoquinoline (252 mg), tris(dibenzylideneacetone)palladium(0) (59 mg), 2-(di-tert-butylphosphino)biphenyl (74 mg), (3-aminopropyl)methylcarbamic acid tert-butyl ester (274 mg, Asta Tech), and sodium tert-butoxide (163 mg) in toluene was stirred with heating at 70° C. for 3 hours. The reaction mixture was returned to room temperature and purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1) to obtain the title compound (325 mg).

reactant | 5-bromoisoquinoline | 252 mg | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | 2-(di-tert-butylphosphino)biphenyl | 74 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | (3-aminopropyl)methylcarbamic acid tert-butyl ester | 274 mg | C(C)(C)(C)OC(N(C)CCCN)=O | C9H20N2O2
reactant | sodium tert-butoxide | 163 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(tert-butoxycarbonyl)-N-methyl-N′-(5-isoquinolyl)-1,3-propylenediamine | 325 mg | C(C)(C)(C)OC(=O)N(CCCNC1=C2C=CN=CC2=CC=C1)C | C18H25N3O2
